US04824834
4-Hydroxy-8-(4-methylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine
To a suspension of 4-hydroxy-8-(4-methylthiophenyl)pyrazolo[1,5-a]-1,3,5-triazine (258 mg) and sodium metaperiodate (430 mg) in methanol (20 ml) is added water (0.5 ml), and the mixture is stirred at room temperature for 40 hours. The insoluble material is separated by filtration, washed with water and dried to give the title compound (180 mg).

reactant | 4-hydroxy-8-(4-methylthiophenyl)pyrazolo[1,5-a]-1,3,5-triazine | 258 mg | OC1=NC=NC=2N1N=CC2C2=CC=C(C=C2)SC | C12H10N4OS
reactant | sodium metaperiodate | 430 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 0.5 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 4-Hydroxy-8-(4-methylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine | 180 mg | OC1=NC=NC=2N1N=CC2C2=CC=C(C=C2)S(=O)C | C12H10N4O2S
